US05019647
Step 1 (S)-2-Amino-1 -ethylthio-4-methylpentane
(S)-2-Amino-4-methyl-1-pentanethiol (6.66 g, 50 mmol) is added over 45 minutes to a well stirred slurry of 60% sodium hydride (2.0 g, 50 mmol) in THF (50 mL) at room temperature under N2. After all of the sodium hydride has reacted, a solution of ethyl iodide (4 mL, 50 mmol) in THF (50 mL) is added and the reaction stirred at 20°-25° C. for 18 hours. THF is removed under reduced pressure and the residue partitioned between diethylether and brine. The ether extract is dried (Na2SO4), filtered and concentrated under reduced pressure. Flash chromatograp

reactant | (S)-2-Amino-4-methyl-1-pentanethiol | 50 mmol, 6.66 g | N[C@H](CS)CC(C)C | C6H15NS
reactant | sodium hydride | 50 mmol, 2.0 g | [H-].[Na+]
reactant | ethyl iodide | 50 mmol, 4 mL | C(C)I | C2H5I
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | (S)-2-Amino-1 -ethylthio-4-methylpentane | N[C@H](CSCC)CC(C)C | C8H19NS
